US03972961
B. preparation of Ethylene/Vinyl Acetate/Maleic Anhydride Copolymer
A solution of azobis(isobutyronitrile) in benzene was simultaneously introduced at a rate sufficient to keep the reactor temperature at 170°C. (about 0.587 g./hr. corresponding to 0.86 kg. catalyst per 1000 kg. of terpolymer). The total benzene feed was 1.04 kg./hr. The terpolymer produced was isolated by a procedure similar to that described in Procedure A. The weight percent of maleic anhydride was 1.7.

reactant | azobis(isobutyronitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Ethylene/Vinyl Acetate Maleic Anhydride | C=C.C(C)(=O)OC=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H2O3.C4H6O2.C2H4/c5-3-1-2-4(6)7-3;1-3-6-4(2)5;1-2/h1-2H;3H,1H2,2H3;1-2H2
